US05338857
In 2 ml of dioxane, 1.5 g (7 mmol) of 3-benzyl-5-propionylisoxazole prepared above in the procedure (2), 0.93 g (7.7 mmol) of piperidine hydrochloride, 0.25 g (8.3 mmol) of paraformaldehyde and two droplets of 12N-hydrochloric acid were heated under reflux for 60 minutes. When left over in a cool place for 3 days after completion of the reaction, the reaction mixture became a solid. Diethyl ether was added to the solid. A solid was collected by filtration and then dried, whereby 3-benzyl-5-(2-methyl-3-piperidinopropionyl)isoxazole hydrochloride was obtained as colorless crystals. Analytical results of the crystals obtained: Yield: 1.6 g (73.5%).

reactant | 3-benzyl-5-propionylisoxazole | 7 mmol, 1.5 g | C(C1=CC=CC=C1)C1=NOC(=C1)C(CC)=O | C13H13NO2
reactant | piperidine hydrochloride | 7.7 mmol, 0.93 g | Cl.N1CCCCC1
reactant | paraformaldehyde | 8.3 mmol, 0.25 g | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 3-benzyl-5-(2-methyl-3-piperidinopropionyl)isoxazole hydrochloride | Cl.C(C1=CC=CC=C1)C1=NOC(=C1)C(C(CN1CCCCC1)C)=O | InChI=1S/C19H24N2O2.ClH/c1-15(14-21-10-6-3-7-11-21)19(22)18-13-17(20-23-18)12-16-8-4-2-5-9-16;/h2,4-5,8-9,13,15H,3,6-7,10-12,14H2,1H3;1H
